US05347017
(R)-3-(1-Amino-1-methylethyl)-1-benzylpyrrolidine (36.3 g, 166 mmol), triethylamine (25.8 g, 255 retool), and di-tert-butyl dicarbonate (36.5 g, 166 mmol) were dissolved in methylene chloride (500 mL) and the solution stirred overnight at ambient temperature. Water (100 mL) was added and the organic layer separated, washed with water (100 mL) and dried over MgSO4, and concentrated under reduced pressure to give (R)-3-[1-(tert-butoxycarbonylamino)-1-methylethyl]-1-benzylpyrrolidine as a yellow oil (44.2 g, 85%): VPC: 95.6%; [α]D (MeOH, 1.0%)=+15.5° C.; 1HNMR (CDCl3, 200 MHz): δ1.30 (s, 6H), 1.47 (s, 9H), 1.75-1.93 (m, 2H), 2.10-2.23 (m, 3H), 2.75-2.93 (m, 2H), 3.60 (s, 2H), 6.10 (s, 1H), 7.25 (m, 5H).

reactant | (R)-3-(1-Amino-1-methylethyl)-1-benzylpyrrolidine | 166 mmol, 36.3 g | NC(C)(C)[C@H]1CN(CC1)CC1=CC=CC=C1 | C14H22N2
reactant | triethylamine | 25.8 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 166 mmol, 36.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 100 mL | O | H2O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-[1-(tert-butoxycarbonylamino)-1-methylethyl]-1-benzylpyrrolidine | 44.2 g, 85% | C(C)(C)(C)OC(=O)NC(C)(C)[C@H]1CN(CC1)CC1=CC=CC=C1 | C19H30N2O2
